US08629271B2
b) 4-Isopropylthiazole-2-carboxylic acid
A solution of ethyl 4-isopropylthiazole-2-carboxylate (example 53, step a) (2.2 g) in a mixture of methanol (10 mL) and THF (20 mL) was treated with a solution of lithium hydroxide (0.264 g) in water (20 mL). The reaction mixture was stirred at 20° C. for 24 hours. The organic solvent was removed under reduced pressure and the remaining aqueous mixture was partitioned between ethyl acetate and water. The aqueous layer was acidified with 2M hydrochloric acid and extracted twice with ethyl acetate, the combined organics were washed with brine, dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure. The crude product was triturated with cyclohexane to afford the subtitled compound. Yield 0.93 g.

reactant | ethyl 4-isopropylthiazole-2-carboxylate | C(C)(C)C=1N=C(SC1)C(=O)OCC | C9H13NO2S
reactant | lithium hydroxide | 0.264 g | [OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 4-Isopropylthiazole-2-carboxylic acid | C(C)(C)C=1N=C(SC1)C(=O)O | C7H9NO2S
